data/oMe_Silver.jsonl
{"reaction_id": "NR-034_1-CC#C_2-CCC_3-Br_4-C(F)(F)F","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(CC#C)(CCC)(O)C(Br)(C(F)(F)F)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(CC#C)(CCC)=C(Br)(C(F)(F)F)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(CC#C)(CCC)C(Br)(C(F)(F)F))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(CC#C)(CCC)C(Br)(C(F)(F)F)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC#C)(CCC)=C(Br)(C(F)(F)F)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
{"reaction_id": "NR-130_1-CC_2-c2ccc(OC)cc2_3-C(=O)C","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(c2ccc(OC)cc2)=C(C(=O)C)N(CC)CC"],"products_smiles": ["c1ccc2c(c1)c(c2ccc(OC)cc2)c(C(=O)C)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(c2ccc(OC)cc2)=C(C(=O)C)N(CC)CC","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(c2ccc(OC)cc2)C(C(=O)C)=[N+](CC)CC","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(c2ccc(OC)cc2)C(C(=O)C)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(c2ccc(OC)cc2)c(C(=O)C)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
